US05804601
1) 1-Methoxy-3-methyl-2-naphthonitrile
The suspension of 1-hydroxy-3-methyl-2-naphthonitrile (47.23 g), potassium carbonate (71.3 g), iodomethane (100 ml), and DMF (250 ml) was-stirred overnight at ambient temperature. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated. The residue was recrystallized from water/methanol to give the titled compound (50 mg).

reactant | 1-hydroxy-3-methyl-2-naphthonitrile | 47.23 g | OC1=C(C(=CC2=CC=CC=C12)C)C#N | C12H9NO
reactant | potassium carbonate | 71.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 100 ml | IC | CH3I
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-Methoxy-3-methyl-2-naphthonitrile | 50 mg | COC1=C(C(=CC2=CC=CC=C12)C)C#N | C13H11NO
